US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-[(4-methoxybenzyl)thio]purine
Crude 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine (134 mg, 0.49 mmol) was suspended in dimethylformamide (60 ml). To the suspension were added potassium carbonate (100 mg, 0.72 mmol) and 4-methoxybenzyl chloride (0.098 ml, 0.72 mmol) in order. The mixture was stirred at room temperature for 3 hours. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (3% methanol/chloroform) to give the subject compound (80 mg, yield 41%).

reactant | 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine | 0.49 mmol, 134 mg | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=CC=C1)O | C12H11N5OS
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzyl chloride | 0.72 mmol, 0.098 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 6-Amino-9-benzyl-8-hydroxy-2-[(4-methoxybenzyl)thio]purine | 80 mg, yield 41% | NC1=C2N=C(N(C2=NC(=N1)SCC1=CC=C(C=C1)OC)CC1=CC=CC=C1)O | C20H19N5O2S
